US09376441B2
Preparation of 1′-acetyl-6-(3-cyclopropyl-4-((R)-1-((R)-5-oxopyrrolidin-3-yl)ethoxy)-3H-imidazo[4,5-c]pyridin-6-yl)spiro[indoline-3,4′-piperidin]-2-one
To solution of 6-(3-cyclopropyl-4-((R)-1-((R)-5-oxopyrrolidin-3-yl)ethoxy)-3H-imidazo[4,5-c]pyridin-6-yl)spiro[indoline-3,4′-piperidin]-2-one: (0.094 g, 0.193 mmol) in DMF was added TEA (0.119 g, 1 mmol), then followed by the addition of methanesulfonyl chloride (0.022 g, 0.193 mmol). Reaction was stirred at 0° C. for 10 minutes; LC-MS showed reaction was complete. TFA was added, and the crude material was purified by HPLC.

reactant | 6-(3-cyclopropyl-4-((R)-1-((R)-5-oxopyrrolidin-3-yl)ethoxy)-3H-imidazo[4,5-c]pyridin-6-yl)spiro[indoline-3,4′-piperidin]-2-one | C1(CC1)N1C=NC2=C1C(=NC(=C2)C2=CC=C1C(=C2)NC(C12CCNCC2)=O)O[C@H](C)[C@H]2CNC(C2)=O | C27H30N6O3
reactant | methanesulfonyl chloride | 0.193 mmol, 0.022 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 1′-acetyl-6-(3-cyclopropyl-4-((R)-1-((R)-5-oxopyrrolidin-3-yl)ethoxy)-3H-imidazo[4,5-c]pyridin-6-yl)spiro[indoline-3,4′-piperidin]-2-one | C(C)(=O)N1CCC2(CC1)C(NC1=CC(=CC=C12)C1=CC2=C(C(=N1)O[C@H](C)[C@H]1CNC(C1)=O)N(C=N2)C2CC2)=O | C29H32N6O4
